US05614519
4'-[[2-n-Propyl-4-methyl-6-[1-(2-methoxy-ethyl)-4,5-diethylimidazol-2-yl]-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid hydrate
Prepared analogously to Example 146 from tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4,5-diethyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and N-(2-methoxy-ethyl)formamide/2-methoxy-ethylamine. C35H40N4O3 ×H2O (582.76) Calculated×H2O: C 72.14 H 7.27 N 9.61 Found: 71.99 7.19 9.84 Mass spectrum: (M-H)- =563

reactant | tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4,5-diethyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C=2OC(=C(N2)CC)CC | C36H41N3O3
reactant | N-(2-methoxy-ethyl)formamide 2-methoxy-ethylamine | COCCNC=O.COCCN
solvent | H2O | O | H2O
product | 4'-[[2-n-Propyl-4-methyl-6-[1-(2-methoxy-ethyl)-4,5-diethylimidazol-2-yl]-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid hydrate | O.C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N(C(=C(N2)CC)CC)CCOC | InChI=1S/C35H40N4O3.H2O/c1-6-11-32-37-33-23(4)20-26(34-36-29(7-2)30(8-3)38(34)18-19-42-5)21-31(33)39(32)22-24-14-16-25(17-15-24)27-12-9-10-13-28(27)35(40)41;/h9-10,12-17,20-21H,6-8,11,18-19,22H2,1-5H3,(H,40,41);1H2
